US04780452
Uridine (50 mmoles, 12.3 g) and 7-anilino-3H-imidazo[4,5-b]pyridine (33 mmole, 7.0 g), were suspended in 65 mL of 7.6 mM KxHxPO4, pH 8.0. After stirring, the pH of this suspension was adjusted from pH 6.6 to 7.4 with potassium hydroxide. The enzyme catalysts purified from Escherichia coli, purine nucleoside phosphorylase (13,000 I.U.) and uridine phosphorylase (335 I.U.) (Krenitsky et al., Biochemistry, 20, 3615, 1981 and U.S. Pat. No. 4,381,344) were then added and the suspension stirred at 38° C. for 5 days. The reaction mixture was filtered. The solids were washed with water and suspended in 250 mL of methanol, brought to a boil, and filtered while hot. The filtrate was dried and extracted with water at room temperature. The product in the washed solids was further purified by several recrystallizations from boiling water. Analytically pure 7-anilino-3-β-D-ribofuranosyl-3H-imidazo[4,5-b]pyridine (30 mmole, 10.46 g), m.p. 189° C. was obtained representing a yield of 91% with respect to the amount of 7-anilino-3H-imidazo[4,5-b]pyridine base used.

reactant | Uridine | 50 mmoles, 12.3 g | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C=C1 | C9H12N2O6
reactant | 7-anilino-3H-imidazo[4,5-b]pyridine | 33 mmole, 7.0 g | N(C1=CC=CC=C1)C1=C2C(=NC=C1)NC=N2 | C12H10N4
reactant | potassium hydroxide | [OH-].[K+]
product | 7-anilino-3-β-D-ribofuranosyl-3H-imidazo[4,5-b]pyridine | 30 mmole, 10.46 g, yield of 91% | N(C1=CC=CC=C1)C1=C2C(=NC=C1)N(C=N2)[C@H]2[C@H](O)[C@H](O)[C@H](O2)CO | C17H18N4O4
